US08383637B2
Ethenesulfonic acid cyclohexyl-methyl-amide
A mixture of N-methylcyclohexylamine (0.048 mol) and TEA (0.053 mol) in DCM (200 mL) was cooled in an ice bath to 5° C., and then a solution of 2-chloro-ethanesulfonyl chloride (0.048 mol, 97%) in DCM (20 mL) was added dropwise. The reaction mixture was stirred for 2 hours at room temperature and then was washed with H2O. The organic layer was separated, dried (MgSO4), and filtered, and the solvent was evaporated to yield the title compound as a residue.

reactant | N-methylcyclohexylamine | 0.048 mol | CNC1CCCCC1 | C7H15N
reactant | 2-chloro-ethanesulfonyl chloride | 0.048 mol | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | Ethenesulfonic acid cyclohexyl-methyl-amide | C1(CCCCC1)N(S(=O)(=O)C=C)C | C9H17NO2S
